US07435738B2
Preparation of 5-chloro-7-nitro-2(3H)-benzoxazolone
188.6 g (1 mole) of 6-amino-4-chloro-2-nitrophenol prepared according to Example 1c was suspended in 1000 ml of ethyl acetate under mild nitrogen purge and the optional present water was removed by azeotropic distillation of 250 ml of the solvent. The mixture was cooled to 20-25° C. and 224 g of carbonyidiimidazole was added as a slurry in 650 ml of ethyl acetate. An additional 100 ml of ethyl acetate was added and the mixture was vigorously stirred during two hours, without the application of cooling. 1000 ml of water was added and the mixture was stirred for 15 minutes. 1450-1500 ml of ethyl acetate was distilled off at about 200 mBar and about 50° C. The mixture was cooled to 0-5° C., 225 ml of 36% HCl was added and the mixture ws cooled again to 0-5° C. and stirred at this temperature for 15 minutes. The solid was filtered off, washed with 400 ml of 1N HCl, washed twice with 500 ml of cold water and once with 500 ml of cold water/ethanol (4/1), and dried at 50° C. and 100 mbar under a gentle nitrogen stream till dry. Yield about 99%.

reactant | 6-amino-4-chloro-2-nitrophenol | 1 mole, 188.6 g | NC1=CC(=CC(=C1O)[N+](=O)[O-])Cl | C6H5ClN2O3
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | 5-chloro-7-nitro-2(3H)-benzoxazolone | Yield about 99% | ClC=1C=C(C2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3ClN2O4
